US07875639B2
4,5-dimethyl-3-[2-(2,2,2-trifluoro-ethoxy)-ethyl]-3H-thiazol-2-ylideneamine hydrobromide
4,5-Dimethyl-thiazol-2-ylamine and 2-(2-bromo-ethoxy)-1,1,1,-trifluoro-ethane were mixed and heated at 65° C. for 4 hours. The residue was triturated with hexane to afford the title compound. MS (ESI+) m/z 255 (M+H)+.

reactant | 4,5-Dimethyl-thiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | 2-(2-bromo-ethoxy)-1,1,1,-trifluoro-ethane | BrCCOCC(F)(F)F | C4H6BrF3O
product | 4,5-dimethyl-3-[2-(2,2,2-trifluoro-ethoxy)-ethyl]-3H-thiazol-2-ylideneamine hydrobromide | Br.CC=1N(C(SC1C)=N)CCOCC(F)(F)F | InChI=1S/C9H13F3N2OS.BrH/c1-6-7(2)16-8(13)14(6)3-4-15-5-9(10,11)12;/h13H,3-5H2,1-2H3;1H
